US07875732B2
Preparation of N-Ethyl-N-methoxymethylpyrrolidinium hexafluorophosphate
In 70.00 g of water was dissolved 35.00 g of N-ethyl-N-methoxymethylpyrrolidinium chloride and thereto was added 32.70 g of sodium hexafluorophosphate to obtain a white solid. The mixture was stirred for 30 minutes, and chloroform was added to the mixture for extraction. The extract was washed with 50 g of water 15 times, thereafter dried, giving 32.60 g of the desired product in the form of a white solid. The product was checked for 1H-NMR as in Example 1.

reactant | N-ethyl-N-methoxymethylpyrrolidinium chloride | 35.00 g | [Cl-].C(C)[N+]1(CCCC1)COC
reactant | sodium hexafluorophosphate | 32.70 g | F[P-](F)(F)(F)(F)F.[Na+]
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | 70.00 g | O | H2O
product | N-Ethyl-N-methoxymethylpyrrolidinium hexafluorophosphate | 32.60 g | F[P-](F)(F)(F)(F)F.C(C)[N+]1(CCCC1)COC | InChI=1S/C8H18NO.F6P/c1-3-9(8-10-2)6-4-5-7-9;1-7(2,3,4,5)6/h3-8H2,1-2H3;/q+1;-1
